* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4002 
D_D2         $N_0001 $N_0003 D1N4002 
X_U1A         $N_0004 $N_0005 $N_0006 0 $N_0003 LM324
X_U2A         $N_0005 $N_0007 $N_0008 0 $N_0002 LM324
X_U3A         $N_0009 $N_0010 $N_0011 0 $N_0005 LM324
V_V6         $N_0012 $N_0013 DC 0 AC 0
+PWL 0ms 4.4v 2ms 5v 4ms 4.4v 6ms 4.4v 
V_V4         $N_0011 0 9v
V_V2         $N_0006 0 9v
V_V3         $N_0008 0 9v
R_R7         $N_0009 $N_0012  22k  
R_R6         0 $N_0009  22k  
R_R5         $N_0010 $N_0005  220k  
R_R4         0 $N_0007  22k  
R_R3         $N_0007 $N_0004  4.7k  
R_R2         $N_0004 $N_0012  22k  
R_R1         $N_0001 $N_0012  1k  
R_R8         $N_0013 $N_0010  10k  
V_V7         $N_0012 0 9v
