* Schematics Netlist *



R_R6         $N_0002 $N_0001  220K  
D_D2         $N_0003 $N_0004 D1N4002 
R_R3         $N_0006 $N_0005  4.7K  
V_V20         $N_0007 0 9v
V_V21         $N_0008 0 9v
D_D1         $N_0003 $N_0009 D1N4002 
V_V22         $N_0010 0 9v
R_R4         0 $N_0006  22K  
R_R2         $N_0005 $N_0011  22K  
R_R1         $N_0003 $N_0011  1k  
V_V13         $N_0011 0 9v
R_R7         0 $N_0012  22K  
R_R5         $N_0012 $N_0011  22K  
R_R8         $N_0002 $N_0013  10K  
X_U1A         $N_0005 $N_0001 $N_0008 0 $N_0004 LM324
X_U2A         $N_0001 $N_0006 $N_0010 0 $N_0009 LM324
V_V         $N_0011 $N_0013  
+PWL 0ms 4.4v 2ms 5v 4ms 4.4v 6ms 4.4v 
X_U3A         $N_0012 $N_0002 $N_0007 0 $N_0001 LM324
